US04762548
N-(3-chloro)allyl-N-methoxyethyl trichloroacetamide
N-(3-chloro)allyl-N-methoxyethylamine (2.25 g, 0.015 mol) and 1.52 g (0.015 mol) triethylamine were stirred in 70 ml dichloromethane. The reaction was kept at approximately 5° C. with an ice-water bath. Trichloroacetyl chloride (2.73 g, 0.015 mol) in 10 ml dichloromethane was added dropwise to the cooled solution. Upon completion of the addition, the mixture was stirred at room temperature for 6 hours. The reaction mixture was then washed twice with saturated brine and dried with sodium sulfate. Rotary evaporation yielded 4.1 g of the above-named product.

reactant | N-(3-chloro)allyl-N-methoxyethylamine | 0.015 mol, 2.25 g | ClC=CCNCCOC | C6H12ClNO
reactant | triethylamine | 0.015 mol, 1.52 g | C(C)N(CC)CC | C6H15N
reactant | Trichloroacetyl chloride | 0.015 mol, 2.73 g | ClC(C(=O)Cl)(Cl)Cl | C2Cl4O
solvent | dichloromethane | 70 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | N-(3-chloro)allyl-N-methoxyethyl trichloroacetamide | 4.1 g | ClC=CCN(C(C(Cl)(Cl)Cl)=O)CCOC | C8H11Cl4NO2
